US04994557
N-(m-iodophenyl)maleamic acid (1 g, 3.15 mmol) was placed in acetic anhydride (10 mL). Sodium acetate (1 g) was added and the solution stirred at 120° C. The dark brown filtrate was evaporated to dryness under reduced pressure and the residue was dissolved in diethyl ether. The ether mixture was filtered and the filtrate was again evaporated to dryness. The residue obtained was applied to a flash chromatography column (30×200 mm) of Kieselgel 60, 230-400 mesh). Elution with ethyl acetate/hexane (1:3) (400 mL) yielded forty fractions. Fractions 25-35 were combined to provide pure pale yellow N-(m-iodophenyl)maleimide (0.75 g, 80%): TLC (EtOAc/hexane, 1:3) Rf 0.42; mp 154°-155° C.; 1H NMR (CDCl3, δ); 7.1-7.7 (multiplets, 4H, 4 aryl CH); 6.8 (singlet, 2H, 2 CHC=O ).

reactant | N-(m-iodophenyl)maleamic acid | 3.15 mmol, 1 g | IC=1C=C(C=CC1)NC(\C=C/C(=O)O)=O | C10H8INO3
reactant | Sodium acetate | 1 g | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-(m-iodophenyl)maleimide | 0.75 g, 80% | IC=1C=C(C=CC1)N1C(C=CC1=O)=O | C10H6INO2
